*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF6R3ARA151ME61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF6R3ARA151ME61G_20deg-C 1 2

C1 4 2 1.49e-04
C2 5 2 4.02e-06
C3 6 2 2.68e-07
R1 3 4 1.12e-02
R2 4 5 6.34e+00
R3 5 6 1.71e+02
L1 1 3 2.10e-09

.ENDS
*$
